US07091201B2
2-Thiophen-2-yl-ethanesulfonic acid [6-chloro-5-(4-chloro-phenyl)-pyrimidin-4-yl]-amide (930 mg) was added to a solution of K-tert. butylate (1.16 g) in ethylene glycol (10 ml). The mixture was stirred at 110° C. for 12 h before it was diluted with water (150 ml), acidified with 10% aq. citric acid (13 ml). The resulting precipitate was collected, washed with water and diethyl ether and dried to give (820 mg) 2-thiophen-2-yl-ethanesulfonic acid [5-(4-chloro-phenyl)-6-(2-hydroxy-ethoxy) -pyrimidin-4-yl]-amide as a beige powder. LC-MS: tR=4.43 min, [M+1]+=440.01, [M−1]−=437.99.

reactant | 2-Thiophen-2-yl-ethanesulfonic acid [6-chloro-5-(4-chloro-phenyl)-pyrimidin-4-yl]-amide | 930 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)CCC=1SC=CC1)C1=CC=C(C=C1)Cl | C16H13Cl2N3O2S2
reactant | citric acid | 13 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | water | 150 ml | O | H2O
product | 2-thiophen-2-yl-ethanesulfonic acid [5-(4-chloro-phenyl)-6-(2-hydroxy-ethoxy) -pyrimidin-4-yl]-amide | 820 mg | ClC1=CC=C(C=C1)C=1C(=NC=NC1OCCO)NS(=O)(=O)CCC=1SC=CC1 | C18H18ClN3O4S2
